US04260751
2.47 g 1-(2-aminophenyl)-5-hydroxy-1H-pyrazole-4-carboxylic acid, ethyl ester and 1.78 g 1,1'-thiocarbonyl-bis-[1H-imidazole] are dissolved in 50 ml tetrahydrofuran and heated for 8 hours. The residue, after distilling off the solvent, is recrystallized from dimethylformamide to yield 2.45 g of 5,6-dihydro-1-oxo-5-thioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid, ethyl ester having a melting point of 277°-282° C.; yellow needles.

reactant | 1-(2-aminophenyl)-5-hydroxy-1H-pyrazole-4-carboxylic acid, ethyl ester | 2.47 g | NC1=C(C=CC=C1)N1N=CC(=C1O)C(=O)OCC | C12H13N3O3
reactant | 1,1'-thiocarbonyl-bis-[1H-imidazole] | 1.78 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5,6-dihydro-1-oxo-5-thioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid, ethyl ester | 2.45 g | O=C1C(=CN2N1C1=C(NC2=S)C=CC=C1)C(=O)OCC | C13H11N3O3S
